US05872118
To the 4-(2-fluorophenyl)butyryl chloride in carbon disulfide (1.0 L) at -78° C. was added aluminum chloride (93.2 g, 0.7 mol) portionwise over a 30 min period. The mixture was warmed to room temperature for 30 min, then refluxed for 2 h. The reaction mixture was poured into a mixture of ice (500 mL) and HCl (6N, 500 mL). The carbon disulfide layer was separated, washed with saturated sodium bicarbonate and extracted with ethyl acetate. The aqueous phase was extracted with ethyl acetate. The combined extracts were dried (MgSO4) and concentrated in vacuo to give 84.2 g (93%) of 5-fluorotetralone as a tan solid. NMR (CDCl3): d 7.7 (m, 1H, ArH), 7.1 (m, 2H, ArH), 2.9 (t, 2H, CH2), 2.6 (t, 2H, CH2), 2.1 (q, 2H, CH2).

reactant | 4-(2-fluorophenyl)butyryl chloride | FC1=C(C=CC=C1)CCCC(=O)Cl | C10H10ClFO
reactant | aluminum chloride | 0.7 mol, 93.2 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 6N, 500 mL | Cl | ClH
solvent | carbon disulfide | 1.0 L | C(=S)=S | CS2
product | 5-fluorotetralone | 84.2 g, 93% | FC1=C2CCCC(C2=CC=C1)=O | C10H9FO
